US09238639B2
B) Methyl(6-hydroxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(6-methoxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate obtained above (405 mg) and AcOH (1.5 mL) was added 48% hydrobromic acid (3 mL) at room temperature. The mixture was stirred at 130° C. for 40 min under microwave irradiation. The mixture was poured into brine at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. A mixture of the residue, MeOH and conc. H2SO4 (0.071 mL) was refluxed for 1 h. The mixture was poured into brine at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine twice, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (232 mg).

reactant | methyl(6-methoxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate | COC(CC1=CSC2=C1C(=CC(=C2)OC)C(F)(F)F)=O | C13H11F3O3S
reactant | AcOH | 1.5 mL | CC(=O)O | C2H4O2
reactant | hydrobromic acid | 3 mL | Br | BrH
solvent | brine | [Cl-].[Na+].O
product | Methyl(6-hydroxy-4-(trifluoromethyl)-1-benzothiophen-3-yl)acetate | 232 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C(F)(F)F)=O | C12H9F3O3S
